US05948907
3-[1 -(Methanesulfonylpropyl)-3-indolyl]-4-(3-indolyl)-1H-pyrrole-2,5-dione
A suspension of 3-[1-(3-Hydroxypropyl)-3-indolyl]-4-(3indolyl)-1H-pyrrole-2,5-dione (41.84 g, 0.109 mole) in CH2Cl2 (1200 mL) was treated with pyridine (26.3 mL, 0.326 mole) and then methanesulfonic anhydride (22.69 g, 0.130 mole) and the reaction was stirred for 2.5 hrs at room temperature under N2. The reaction was then worked up extractively using aqueous 0.1N HCl (3260 mL), water (1500 mL) and brine (500 mL) and the organic layer dried (MgSO4) and the solvent removed in vacuo to give 49.96 g (99%) of solid the titled compound. NMR. MS (FD) m/z=464 (M+, 100%). Analytical calculated for C24H21N3O5S C, 62.19; H, 4.57; N, 9,07; S, 6.92. Found C, 61.52; H, 4.72; N, 8.74; S, 6.88.

reactant | 3-[1-(3-Hydroxypropyl)-3-indolyl]-4-(3indolyl)-1H-pyrrole-2,5-dione | 0.109 mole, 41.84 g | OCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C23H19N3O3
reactant | pyridine | 0.326 mole, 26.3 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 0.130 mole, 22.69 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | HCl | 0.1N, 3260 mL | Cl | ClH
solvent | CH2Cl2 | 1200 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 500 mL | [Cl-].[Na+].O
solvent | water | 1500 mL | O | H2O
product | 3-[1 -(Methanesulfonylpropyl)-3-indolyl]-4-(3-indolyl)-1H-pyrrole-2,5-dione | 49.96 g, 99% | CS(=O)(=O)CCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C24H21N3O4S
